US08222245B2
(7-{5-[4-[(1-Methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl)acetic acid
A mixture of ethyl (7-{5-[4-[(1-methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl)acetate (Preparation 48) (59 mg, 0.12 mmol), aqueous sodium hydroxide (2M, 590 μL, 1.18 mmol) and ethanol (6 ml) was heated at 40° C. for 1 hr. The reaction mixture was cooled to room temperature and concentrated. The residue was taken up in water, which was then acidified to pH 6 with acetic acid. The aqueous phase was extracted with EtOAc (2×20 ml) before the combined organic fractions were concentrated and the residue was triturated with EtOAc and the title compound was filtered off and dried in a vacuum oven to give a white solid (36 mg, 0.08 mmol). δH (d6DMSO, 400 MHz): 8.41 (1H, dd), 8.30 (1H, d), 7.88-7.82 (2H, m), 7.58 (1H, d), 7.35 (1H, d), 4.98 (1H, septet), 3.25 (2H, s), 3.06-2.96 (4H, m), 2.89-2.81 (4H, m), 1.36 (6H, d); MS (ES−): C24H24F3N3O4 requires 475; found 474 [M−H+].

reactant | ethyl (7-{5-[4-[(1-methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl)acetate | 0.12 mmol, 59 mg | CC(C)OC1=C(C=C(C=C1)C1=NC(=NO1)C1=CC2=C(CCN(CC2)CC(=O)OCC)C=C1)C(F)(F)F | C26H28F3N3O4
reactant | sodium hydroxide | 1.18 mmol, 2M, 590 μL | [OH-].[Na+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | (7-{5-[4-[(1-Methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl)acetic acid | 0.08 mmol, 36 mg | CC(C)OC1=C(C=C(C=C1)C1=NC(=NO1)C1=CC2=C(CCN(CC2)CC(=O)O)C=C1)C(F)(F)F | C24H24F3N3O4
